Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Morbid obesity
 
Major Surgical or Invasive Procedure:
___: laparoscopic sleeve gastrectomy

 
History of Present Illness:
Per Dr. ___ has class III morbid obesity with 
weight of 312.4 pounds as of ___ with his initial screen 
weight of 327 pounds on ___, height of 72 inches and BMI of 
42.4.  When he initially presented ___ his weight was 
295.1 pounds and BMI of 40.6. His previous weight loss efforts 
have included RD visits, PCP guidance, self initiated diets with 
exercise losing up to 20 pounds but his weight loss attempts 
have failed to produce lasting results.  He has not taken 
prescription weight loss medications or used over-the-counter 
ephedra-containing appetite suppressants/herbal supplements.  He 
stated that his lowest adult weight was 185 pounds in the late 
___ and his highest weight was his initial screen weight of 327 
pounds.  He weighed 208 pounds in ___, 243 pounds in ___, 307 
pounds in ___ and 299 pounds one year ago.  He stated that he 
has been struggling with weight for the past ___ years after 
having a liver transplant and cites as factors contributing to 
his excess weight large portions, late-night eating, convenience 
eating, too many carbohydrates, inconsistent meal pattern and 
lack of exercise.  For physical activity he enjoys swimming for 
one hour 2 times a week.  He had been using a treadmill but 
stopped secondary to breaking his tibia 6 months ago.  He denied 
history of eating disorders - no anorexia, bulimia, diuretic or 
laxative abuse and he denied binge eating.  He does have a 
diagnosis of clinical depression secondary to liver transplant 
but is not followed by a therapist nor has he been hospitalized 
for mental health issues and he is on psychotropic medication 
(citalopram).

 
Past Medical History:
His medical history is significant for:
1)  hypertension
2)  obstructive sleep apnea on CPAP
3)  history of cerebral vascular accident ___ with mild 
    residual right-sided weakness since resolved
4)  history of kidney stones
5)  hyperlipidemia with elevated triglycerides
6)  occasional heartburn
7)  history of gallstones
8)  history of chronic hepatitis C from blood transfusion 
    genotype IA with grade II varices and history of ascites 
    requiring multiple paracenteses
9)  osteoporosis with history of Boniva and Reclast infusions
10) androgen deficiency
11) vitamin D deficiency
12) history of thrombocytopenia with platelet transfusions
13) history of erythrocytosis
14) history of pleural effusions
15) history of hyponatremia
16) erectile dysfunction
17) history of fractures of the hip, ankle and tibia
18) erectile dysfunction
19) hyperuricemia
20) history of umbilical hernia

His surgical history is noteworthy for:
1)  s/p orthotopic liver transplantation ___ in ___ 
    ___
2)  repair of left femoral neck fracture ___
3)  thoracentesis of left pleural effusion ___
4)  umbilical hernia repair complicated by wound drainage ___
5)  s/p cholecystectomy
6)  bilateral hip replacement in ___
7)  tonsillectomy  

 
Social History:
___
Family History:
His family history is noted for father deceased age ___ from lung 
CA and breast; mother deceased in her ___ with Alzheimer's 
disease and gallbladder disease; brother deceased age ___ from 
Hodgkin's lymphoma sister with history of hepatitis C.
 
Physical Exam:
VS: T 98.1 P 69 BP 116/65 RR 18 O2 95%RA
Constitutional: NAD
Neuro: Alert and oriented x 3
Cardiac: Regular rate and rhythm
Resp: Clear to auscultation, bilaterally
Abdomen: Soft, appropriate ___ tenderness, no 
rebound tenderness/guarding
Wounds: Abd lap sites with steri-strips, CDI
Ext: + mild right sided lower extremity edema (baseline per pt), 
minimal edema of left lower extremity
 
Pertinent Results:
LABS
___ 04:07AM BLOOD WBC-7.2 RBC-4.55* Hgb-14.2 Hct-41.9 
MCV-92 MCH-31.2 MCHC-33.9 RDW-15.4 RDWSD-51.6* Plt ___ 
Glucose-103* UreaN-21* Creat-1.3* Na-139 K-4.0 Cl-103 HCO3-25 
AnGap-15 ALT-39 AST-28 AlkPhos-51 TotBili-3.0* DirBili-0.6* 
IndBili-2.4 Calcium-9.0 Phos-2.1* Mg-2.0
tacroFK-4.2*

___ 06:04AM BLOOD WBC-10.8*# RBC-4.84 Hgb-14.9 Hct-44.9 
MCV-93 MCH-30.8 MCHC-33.2 RDW-15.6* RDWSD-52.1* Plt ___ 
Glucose-106* UreaN-26* Creat-1.5* Na-139 K-4.6 Cl-101 HCO3-26 
AnGap-17 ALT-53* AST-36 AlkPhos-54 TotBili-3.3* Calcium-8.9 
Phos-2.8 Mg-2.0 tacroFK-3.8*

IMAGING
___
UGI AIR W/O KUB:
IMPRESSION:  
No evidence of leak or obstruction. 

 
Brief Hospital Course:
The patient presented to pre-op on ___. Pt was 
evaluated by anaesthesia and taken to the operating room for 
laparoscopic sleeve gastrectomy. There were no adverse events in 
the operating room; please see the operative note for details. 
Pt was extubated, taken to the PACU until stable, then 
transferred to the ward for observation. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a PCA and then 
transitioned to oral oxycodone once tolerating a stage 2 diet. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was initially kept NPO.  An upper GI 
study (POD1) was negative for a leak, therefore, the diet was 
advanced sequentially to a Bariatric Stage 3 diet, which was 
well tolerated. Patient's intake and output were closely 
monitored.  The hepatology service followed closely while 
patient was hospitalized and monitored liver function tests 
which remained within normal limits.  Tacrolimus was resumed on 
POD1; serum levels monitored throughout hospitalization; the 
patient will follow-up with the transplant team as scheduled 
upon discharge.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a stage 3 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Citalopram 20 mg PO DAILY 
4. Hydrochlorothiazide 37.5 mg PO DAILY 
5. Lisinopril 10 mg PO DAILY 
6. Metoprolol Succinate XL 50 mg PO DAILY 
7. Pravastatin 10 mg PO QPM 
8. Tacrolimus 1 mg PO Q12H 
9. Testosterone Cypionate 200 mg/mL SQ 0.5 CC WEEKLY 
10. zolpidem 12.5 mg oral QHS:PRN sleep 
11. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -200 unit oral BID 
12. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. Tacrolimus 1 mg PO Q12H 
5. Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
6. OxycoDONE Liquid ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg/5 mL ___ mL by mouth every four (4) hours 
Refills:*0
7. Calcarb 600 With Vitamin D (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral BID 
8. Multivitamins 1 TAB PO DAILY 
9. Pravastatin 10 mg PO QPM 
10. Testosterone Cypionate 200 mg/mL SQ 0.5 CC WEEKLY 
11. Famotidine 20 mg PO BID 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
12. Docusate Sodium (Liquid) 100 mg PO BID 
RX *docusate sodium 50 mg/5 mL 10 ml by mouth twice a day 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Morbid obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions: Please call your surgeon or return to 
the emergency department if you develop a fever greater than 
101.5, chest pain, shortness of breath, severe abdominal pain, 
pain unrelieved by your pain medication, severe nausea or 
vomiting, severe abdominal bloating, inability to eat or drink, 
foul smelling or colorful drainage from your incisions, redness 
or swelling around your incisions, or any other symptoms which 
are concerning to you.

Diet: Stay on Stage III diet until your follow up appointment. 
Do not self advance diet, do not drink out of a straw or chew 
gum.

Medication Instructions:
Resume your home medications, CRUSH ALL PILLS.
You will be starting some new medications:
1.  You are being discharged on medications to treat the pain 
from your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST refrain from such activities while 
taking these medications.
2. You should begin taking a chewable complete multivitamin with 
minerals. No gummy vitamins.
3. You will be taking Zantac liquid ___ mg twice daily for one 
month. This medicine prevents gastric reflux.
4. You should take a stool softener, Colace, twice daily for 
constipation as needed, or until you resume a normal bowel 
pattern.
5. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) Examples are Ibuprofen, Motrin, Aleve, Nuprin and 
Naproxen. These agents will cause bleeding and ulcers in your 
digestive system.

Activity:
No heavy lifting of items ___ pounds for 6 weeks. You may 
resume moderate exercise at your discretion, no abdominal 
exercises.

Wound Care:
You may shower, no tub baths or swimming. 
If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites. 

 
Followup Instructions:
___